US07037935B2
In an analogous manner to that described in J. Medicinal Chem. 33:2087–93 (1990), the reaction 4-fluorobenzylalcohol instead of benzylalcohol with 2-chloro-5-nitropyridine yields the 2-(4-fluoro-benzyloxy)-5-nitro-pyridine as a yellow solid.

reactant | 4-fluorobenzylalcohol | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | 2-chloro-5-nitropyridine | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
product | 2-(4-fluoro-benzyloxy)-5-nitro-pyridine | FC1=CC=C(COC2=NC=C(C=C2)[N+](=O)[O-])C=C1 | C12H9FN2O3
